Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was out being mischevious, I'm better off being broke"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Please see the initial ED consult note written by Dr. ___
on ___ for further details. Briefly, Mr. ___ is a ___ year
old man with a history of chronic depression with multiple past
suicide attempts who was brought to the ___ ED after he
attempted suicide by drowning. Yesterday, the patient started
drinking with a friend. After the friend left, he broke into a
boat house and stole a boat. The boat accidentally flipped over,
after which he brought it back to shore. Subsequently, he 
decided
to purposely flip the boat to drown himself. The next thing he
remembers is waking up in the ED.
     Mr. ___ endorses depression over most of his life that
is relatively constant, though it worsens for periods of several
weeks at a time. This most recent depressive episode began about
3 weeks ago, during which he has felt depressed most of the day,
nearly every day. He also reports associated symptoms including
increased sleep, reduced interest, feelings of worthlessness, 
low
energy, poor concentration, poor appetite, and suicidal 
ideation.
He has had suicidal ideation for years. He declined to elaborate
much on his suicidal ideation, though he reports that he does 
not
currently want to die. He has no thoughts of harming himself 
now.
He also denies homicidal ideation. He denies current or past
symptoms of mania including reduced sleep with increased energy,
racing thoughts, or pressured speech. He denies psychotic
symptoms such as visual or auditory hallucinations or paranoid
delusions. He reports a long history of alcohol abuse, with
multiple past detoxes. His alcohol use was partly responsible 
for
him losing his relationships with his daughters, as he told them
that he was "more interested in drinking than caring for them."
     Mr. ___ reports a ___ pattern of relationships
characterized by aloof emotional detachment and a lack of
interpersonal relatedness. As a child, he had absolutely no
friends, preferring to sit in his room playing with radios. He
says that he once tried having a friend, but he ___ like the
same toy that this friend preferred, so he decided against
developing a friendship. Part of his detachment was a response 
to
his feeling that all others were critical and did not understand
him. Since elementary school, he has felt that he is "somewhere
between a man and a woman," and he feels that nobody ever
understood him. He was bullied as a child. As he grew older, his
"hormones" made him desire sexual relationships, and he was
married twice to women, having two daughters with the second
wife. After ___ years of marriage, he left his family as he 
"was
tired of having responsibility and wanted to drink alcohol."
Subsequently, he had two relationships with men, and is now
attracted to women. Though he has had sexual relationships with
these partners, he denies having any emotional connection to
them, except for his boyfriend in ___. He says that despite his
lack of connection, he "never feels lonely," that he doesn't see
any benefit of having an emotional relationship, and that he
prefers to be by himself.

Course in Emergency Department: The patient had no behavioral
issues and did not require any medical or physical restraints. 
He
received Abilify 15mg PO x1 and prozac 60mg x1.

 
Past Medical History:
Past psychiatric history, per the note written by Dr. ___ on
___, confirmed and updated as appropriate:
Previous dx: major depressive disorder, bipolar disorder
Hospitalizations: Patient denies any inpatient psych
hospitalizations, but does state that he spent some time at a
___ in ___ for alcohol detoxification and that he left
___
Current treaters and treatment:Patient was seen by Dr. ___ in
___ years ago, and by therapist ___ ___ year ago 
(per
previous report, was a ___ therapist for assault and
battery charge)
Medication and ECT trials: Patient states that he was previously
on prozac, abilify, and mirtazapine ___ year ago but that he felt
foggy on these medications and didn't believe they particularly
helped
Suicide attempts: Patient endorses a history of many suicide
attempts, including a time in ___ when he was hitchhiking and
repeatedly jumped into the road in front of cars ("but they all
swerved away"), in ___ he cut his wrists and reportedly 
required
medical care, and in ___ he states that he starved himself 
for
45 days and was down to 120lbs 
___: states he has cut his arms multiple times
Harm to others: denies (though possible prior assault and 
battery
charge)
Access to weapons: denies

Family psychiatric history, per the note written by Dr. ___ 
on
___, confirmed and updated as appropriate: 
Denies any known family history of psychiatric illness, suicide
attempts, or alcoholism/substance abuse. 

 
Social History:
Patient states that he first began drinking at age ___ at ___. He says that it has been a problem for him ever since.
His longest period of sobriety was for ___ years in the 1980s, and
he says that being married and in AA helped him. He is currently
still involved with AA and NA, and has sponsors in both. He says
he drinks ___ days per month, about 10 drinks per day. Denies 
any
ICU stays, intubations, DTs, or seizures. States that he first
began smoking crack cocaine in the ___, and that he smoked it
for ___ years, quitting in ___. Has a history of heroin use, but
denies it ever being a problem or using it currently. Has smoked
one pack per day since age ___.

Patient states that he was born in ___ and grew up in ___. He entered the ___ at age ___, and spent ___ years 
fixing
airplanes in ___, before entering an AA program at a
___ in ___, which he didn't finish. He started
working at a ___ and got married and had 2
daughers, who are now in college and live in ___. States they
are mad. 
 
Family History:
Denies any known family history of psychiatric illness, suicide
attempts, or alcoholism/substance abuse. 

 
Physical Exam:
ADMISSION: 
VS:  98.9, 97, 131/87, 16, 98% on RA
General- in NAD
Skin- no rashes
HEENT- head normocephalic and ___, no pharyngeal
erythema
Neck and Back- neck supple, no lymphadenopathy
Lungs- CTABL
CV- RRR, s1, s2, no MRG
Abdomen: soft, ___
Extremities- no clubbing, edema, or cyanosis
Neuro-
Cranial Nerves-
       I: not tested
       II: visual fields intact
      III, IV, VI: EOM intact
      V, VII: facial sensation and movements intact
      VIII: hearing intact and symmetric
      IX, X: palate raised symmetrically
      XI: shoulder raise symmetric
      XII: tongue protruded midline
Motor: normal tone, ___ strength throughout
Sensation: intact and symmetric to light touch in UE's and ___
Coordination:
     ___: intact
Gait/Romberg: normal gait

Neuropsychiatric Examination:
  *Appearance: appears stated age, wearing a hospital gown, good
hygiene
  Behavior: cooperative and appropriate, intermittent 
___
  *Mood and Affect: "depressed"/euthymic, ___,
reactive, full range
  *Thought process: linear, ___, no LOA
  *Thought Content: chronic SI, denies current SI, no delusions,
AH, VH, or HI elicited
  *Judgment and Insight: poor
  Cognition:
    *Attention, *orientation, and executive function: alert and
oriented to person, place, and time. Able to say MOYB without
difficulty.
    *Memory: ___ registration, ___ recall
    *Fund of knowledge: intact
    *Speech: normal rate, rhythm, volume, and prosody
    *Language: fluent without paraphasic errors

DISCHARGE:
*VS:  BP: 136/87  HR: 78  temp: 98.0F  resp: 16  O2 sat: 99%
  Neurological:
    *station and gait: good arm swing, ___ gait
    *tone and strength: MAEE, no lateralizing weakness
  *Appearance: appropriate dress for stated age, groomed
  Behavior:
  *Mood and Affect: Labile mood and affect - very pleasant 
*Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
linear
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies SI/HI, or hallucinations
  *Judgment and Insight: Fair / Fair
  Cognition:
    *Attention, *orientation, and executive function:
Cooperative, appropriate function
    *Memory: No deficits noted, able to relate coherent history
    *Fund of knowledge: appropriate for age/education
    *Speech: normal prosidy / cadence
    *Language: fluent without neologisms/paraphasic errors
 
Pertinent Results:
___ 03:45AM URINE  ___ 
___
___ 03:45AM URINE  ___ SP ___
___ 03:45AM URINE  ___ 
___ 
___
___ 03:45AM URINE  RBC-<1 WBC-<1 ___ 
___
___ 03:40AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 03:40AM   ALT(SGPT)-69* AST(SGOT)-80* ALK ___ TOT 
___
___ 03:40AM   ___
___ 03:40AM   ___
___ 03:40AM   ___
___ 03:40AM   ___ 
___
___ 03:40AM   ___ 
___
___ 03:40AM   ___ 
___
___ 03:40AM   PLT ___

 
  ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 07:47    77* 74* 215   91   0.2   

OTHER ENZYMES & BILIRUBINS Lipase 
___ 03:40    25 

  CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
Cholest 
___ 07:47      4.3             198 

DIABETES MONITORING %HbA1c eAG 
___ 07:47    5.61 1142 

LIPID/CHOLESTEROL Cholest Triglyc HDL CHOL/HD LDLcalc 
___ 07:47    198 ___ 

LDL(CALC) INVALID IF TRIG>400 OR ___ SAMPLE 
 
PITUITARY TSH 
___ 03:40    1.3 

HEPATITIS    
                    HBsAg    HBsAb IgM HBc IgM HAV 
___ 07:16    NEGATIVE NEGATIVE NEGATIVE NEGATIVE 

HIV SEROLOGY        HIV Ab 
___ 07:47    NEGATIVE 

TOXICOLOGY, SERUM AND OTHER DRUGS 
                    ASA Ethanol Acetmnp Bnzodzp Barbitr Tricycl 
___ 03:40    NEG 291*1 NEG NEG2 NEG NEG3 

HEPATITIS C SEROLOGY  HCV Ab 
___ 07:16      POSITIVE

HEPATITIS E ANTIBODY (IGM) Results Pending 
HEPATITIS D ANTIBODY, TOTAL   NEGATIVE            

 
 
Brief Hospital Course:
Admitted to ___ for stabilization and evaluation of 
suicidal ideation. On admission, patient was cooperative and 
appropriate.

PSYCHIATRIC
 
Mood Disorder: 
Presentation is consistent with a major depressive episode 
superimposed on persistent depressive disorder vs. an underlying 
personality disorder or ___ mood disorder. He took 
prozac and abilify in the past with some effect and thus were 
restarted on low doses of both with plans to titrate.  As the 
patient was evaluated, further history of hypomania and 
insomnia, alternating with periods of hypersomnolence.  Due to 
this Abilify was titrated to 20mg daily acting as a stabilizing 
intervention with Prozac 20mg daily.  Case Management were able 
to obtain a free short course of both of these medications in 
order to support the patient who will not have money in hand for 
___ weeks.

Alcohol: 
No evidence of withdrawl was noted while the patient was in the 
inpatient psychiatry unit. Vistaril 25mg PO Q6H prn anxiety, 
insomnia was written but not used.  Thiamine, folate, and MVI 
were also used as nutritional support.  Patient noted good AA 
and NA sponsors.

On discharge, mood was elevated, MSE was pertinent for elevated 
mood.

Safety: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS
#) Liver function: 
Hepatitis panel revealed Hepatitis C positivity.  AST/ALT 
remained elevated through the course of his admission.  HAV, 
HBV, and HIV negative.  Follow up was scheduled with his 
outpatient PCP - ___, MD.

#) Cerebrovascular risk factors: 
A1c and fasting lipid panel were both in good levels.

PSYCHOSOCIAL
#) MILIEU/GROUPS
The patient was highly animated, euthymic, and participatory in 
the milieu. The patient was very visible on the unit and 
frequently had conversations with his/her peers. He attended 
some groups. He never engaged in any unsafe behaviors. The pt 
ate all meals in the milieu, slept well, and cooperated with 
unit rules.
#) FAMILY CONTACTS
Patient is not close with any family, no meetings were 
conducted.
#) COLLATERAL
We requested records from the patients shelter, ___, as 
well as his PCP, ___, MD.  

LEGAL STATUS
The pt remained on a CV throughout the duration of this 
admission.

RISK ASSESSMENT:
This patient does not abuse substances, is not 
suicidal/homicidal, is feeling well and is animated, euthymic, 
and participatory in the milieu, all of which indicate a low 
immediate risk of harm.

Despite history of recent episodes of agitation, current risk of 
harm to others is low.

Static risk factors include:
-chronic and severe mental illness, male sex, history of 
trauma/abuse, chronic medical illness, impulsive/aggressive 
tendencies

Modifiable risk factors include:
-hopelessness, active polysubstance misuse, acute major mood 
episode, limited outpatient/social support, sense of isolation, 
financial stressors.  We modified this risk by starting the 
patient on Abilify and Prozac for mood stabilization / 
depression.

Protective factors include:
-Protective factors include current outpatient 
providers/treatment, strong connections to community support, 
and skills in problem solving, conflict resolution and handling 
problems in a ___ way. Current risk is low for 
intentional ___ given that pt denies suicidal ideation, 
intent and plan, is accepting of treatment, is currently sober 
and is future oriented with plans to contact AA/NA sponsors if 
desire to engage in self destructive behavior come into play.

INFORMED CONSENT
I discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to begin the 
medication.

PROGNOSIS:
Fair due to the fact that the patient is on an appropriate 
regimen of medication for their illness, and has strong bonds 
with sponsors in AA/NA.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. ARIPiprazole 20 mg PO DAILY 
2. Fluoxetine 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol related mood disorder
Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to ___ 
Inpatient ___ Unit for evaluation and treatment of your 
___ feelings.  We were able to restart two medications, 
aripiprazole and fluoxetine with good effect at managing your 
symptoms.  We also interacted with you on a daily basis to 
evaluate your progress.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
 
Followup Instructions:
___